US06838463B2
To 2 ml of N,N-dimethylformamide were added 0.1 g of 4-chloro-6-(2-butynyloxy)-5-fluoropyrimidine, 0.1 g of potassium carbonate, and 0.06 g of phenol, followed by stirring at 80° C. for 2 hours. The reaction mixture was left for cooling to room temperature and poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The organic layers were combined, washed with brine, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.12 g of 4-(2-butynyloxy)-5-fluoro-6-phenoxypyrimidine (the present compound (179)).

reactant | 4-chloro-6-(2-butynyloxy)-5-fluoropyrimidine | 0.1 g | ClC1=NC=NC(=C1F)OCC#CC | C8H6ClFN2O
reactant | potassium carbonate | 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenol | 0.06 g | C1(=CC=CC=C1)O | C6H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-(2-butynyloxy)-5-fluoro-6-phenoxypyrimidine | 0.12 g | C(C#CC)OC1=NC=NC(=C1F)OC1=CC=CC=C1 | C14H11FN2O2
